US08217066B2
Synthesis of N-[1-(4′-{4-[(S)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl]-biphenyl-4-yl)-cyclopropanecarbonyl}-methanesulfonamide (Compound 72)
1-(4′-{4-[(S)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid (0.022 g, 0.044 mmol) was dissolved in THF (3 mL) and carbonyldiimidazole (0.022 g, 0.14 mmol) was added. After 1.5 hours an additional portion of carbonyldiimidazole (0.011 g) was added. The reaction stirred for 40 minutes then carbonyldiimidazole (0.044 g) was added. The reaction stirred overnight then carbonyldiimidazole (0.044 g) was added and the reaction was heated to 50° C. After heating for 3 hours, 1,8-diazabicyclo[5.4.0]undec-7-ene (0.100 mL, 0.67 mmol) and methanesulfonamide (0.050 g, 0.53 mmol) were added and the reaction was heated to 100° C. The reaction was monitored by analytical LCMS and when it was complete it was cooled and purified on preparatory HPLC to afford the title compound.

reactant | 1-(4′-{4-[(S)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | 0.044 mmol, 0.022 g | O[C@H](CO[C@H](C)C1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C | C30H29NO5
reactant | carbonyldiimidazole | 0.14 mmol, 0.022 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbonyldiimidazole | 0.011 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbonyldiimidazole | 0.044 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbonyldiimidazole | 0.044 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.67 mmol, 0.100 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methanesulfonamide | 0.53 mmol, 0.050 g | CS(=O)(=O)N | CH5NO2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[1-(4′-{4-[(S)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl]-biphenyl-4-yl)-cyclopropanecarbonyl}-methanesulfonamide | O[C@H](CO[C@H](C)C1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C31H32N2O6S
